US07132426B2
Preparation of 4-[1-(5-Ethyl-pyrimidin-2-yl)-piperidin-4-ylsulfanyl]-1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine (Compound A237)
A mixture of 1-(2-fluoro-4-methanesulfonyl-phenyl)-4-(piperidin-4-ylsulfanyl)-1H-pyrazolo[3,4-d]pyrimidine hydrochloride (250 mg, 0.56 mmol), 2-chloro-5-ethyl-pyrimidine (680 μL, 5.6 mmol), and triethylamine (315 μL, 2.24 mmol) in isopropanol (4 mL) was heated under microwave irradiation for 15 min at 150° C. The crude mixture was concentrated in vacuo and purified by HPLC to provide Compound A237 as a white solid (100 mg, 35%). 1H NMR(CDCl3, 400 MHz) δ 1.18 (t, 3H), 1.82–1.94 (m, 2H), 2.28–2.37 (m, 2H), 2.53 (q, 2H), 3.06 (s, 3H), 3.55–3.64 (m, 2H), 4.41–4.55 (m, 3H), 7.82 (m, 3H), 8.24 (s, 1H), 8.37 (s, 2H), 8.74 (s, 1H). Exact mass calculated for C23H24FN7O2S2 513.61, found 514.4 (MH+).

reactant | 1-(2-fluoro-4-methanesulfonyl-phenyl)-4-(piperidin-4-ylsulfanyl)-1H-pyrazolo[3,4-d]pyrimidine hydrochloride | 0.56 mmol, 250 mg | Cl.FC1=C(C=CC(=C1)S(=O)(=O)C)N1N=CC=2C1=NC=NC2SC2CCNCC2
reactant | 2-chloro-5-ethyl-pyrimidine | 5.6 mmol, 680 μL | ClC1=NC=C(C=N1)CC | C6H7ClN2
reactant | triethylamine | 2.24 mmol, 315 μL | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 4 mL | C(C)(C)O | C3H8O
product | 4-[1-(5-Ethyl-pyrimidin-2-yl)-piperidin-4-ylsulfanyl]-1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine | 100 mg, 35% | C(C)C=1C=NC(=NC1)N1CCC(CC1)SC1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)S(=O)(=O)C)F | C23H24FN7O2S2
